US07244845B2
A suspension of isopropyl biphenyl-4-ylcarbamate (256 g, 1 mol) in dichloromethane (2000 ml) was cooled to −10° C. and chlorosulfonic acid (350 g, 200 ml, 3 mol) was added dropwise with stirring within 25 min with gentle cooling using a dry ice-methanol bath. The internal temperature was kept below −4° C. Subsequently, the dry ice-methanol bath was replaced by an ice bath and the mixture was stirred at from 3° C. to 14° C. for 1.5 h. Afterward, chlorosulfonic acid (175 ml, 2.6 mol) was again added at from 2° C. to 3° C., the mixture was stirred again for 30 min and then worked up. To this end, a mixture of ice (5 kg), methylene chloride (1000 ml) and concentrated NaCl solution (1300 ml) was initially charged under vigorous stirring and the reaction mixture was added slowly. The precipitated solid was filtered off with suction and dried at 45° C. under reduced pressure. 329 g (92%) of 4′-isopropoxycarbonylaminobiphenyl-4-sulfonic acid sodium salt were obtained as a white, crystalline powder, m.p.>260° C.,

reactant | isopropyl biphenyl-4-ylcarbamate | 1 mol, 256 g | C1(=CC=C(C=C1)NC(OC(C)C)=O)C1=CC=CC=C1 | C16H17NO2
reactant | chlorosulfonic acid | 3 mol, 200 ml, 350 g | ClS(=O)(=O)O | ClHO3S
reactant | dry ice methanol | C(=O)=O.CO
reactant | chlorosulfonic acid | 2.6 mol, 175 ml | ClS(=O)(=O)O | ClHO3S
reactant | NaCl | 1300 ml | [Na+].[Cl-]
solvent | dichloromethane | 2000 ml | ClCCl | CH2Cl2
solvent | methylene chloride | 1000 ml | C(Cl)Cl | CH2Cl2
product | 4′-isopropoxycarbonylaminobiphenyl-4-sulfonic acid sodium salt | 329 g, 92% | [Na+].C(C)(C)OC(=O)NC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C16H17NO5S.Na/c1-11(2)22-16(18)17-14-7-3-12(4-8-14)13-5-9-15(10-6-13)23(19,20)21;/h3-11H,1-2H3,(H,17,18)(H,19,20,21);/q;+1/p-1
